US05705499
2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The 2-chloro-5,11-dihydro-11-ethyl-8-hydroxymethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.52 g, 1.6 mmol) was dissolved in chloroform (10 mL) and treated with thionyl chloride (0.12 mL, 1.6 mmol) followed by triethylamine (0.23 mL, 1.6 mmol). After 0.5 hours stirring the mixture was made alkaline with 15% aqueous sodium hydroxide, diluted with brine (10 mL) and the organic layer was separated. The aqueous layer was then extracted with dichloromethane (2×20 mL). The combined organics were dried over sodium sulfate, filtered, concentrated and the residue was purified by flash chromatography (gradient hexanes to 1:1 hexanes/ethyl acetate) to give the title compound (0.51 g, 93%), m.p. 133°-134° C.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-hydroxymethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 1.6 mmol, 0.52 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CO)=O)C | C15H15ClN4O2
reactant | thionyl chloride | 1.6 mmol, 0.12 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 1.6 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.51 g, 93% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
